US07947730B2
b) Oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester
To a solution of oxo-thiophen-2-yl-acetyl chloride (31.5 mmol) at 0 to 5° C. in chloroform (60 ml) is added a solution of (1-Methyl-piperidin-4-yl)-methanol (4.07 g, 31.5 mmol) in chloroform (60 ml), dropwise maintaining the temperature below 5° C. The resulting mixture is stirred for 2 hours at room temperature. Washing with 10% potassium carbonate solution, water and then drying over magnesium sulphate, filtration and evaporation gives the title compound.

reactant | oxo-thiophen-2-yl-acetyl chloride | 31.5 mmol | O=C(C(=O)Cl)C=1SC=CC1 | C6H3ClO2S
reactant | (1-Methyl-piperidin-4-yl)-methanol | 31.5 mmol, 4.07 g | CN1CCC(CC1)CO | C7H15NO
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | Oxo-thiophen-2-yl-acetic acid 1-methyl-piperidin-4-ylmethyl ester | CN1CCC(CC1)COC(C(C=1SC=CC1)=O)=O | C13H17NO3S
